US07179934B2
(4R,5R)-4,5-Dimethyl-3-oxo-octanoic acid thyl ester (Alternative B)
To a solution containing 2.0 g (13.9 mmol) of (2R,3R)-2,3-dimethyl-hexanoic acid in 20 mL of dichloromethane was added 2.1 g (16.6 mmol) of chloromethylene dimethyl-ammonium chloride. After stirring the resulting solution under nitrogen for 1.5 hours, the solvent was evaporated to give (2R,3R)-2,3-dimethyl-hexanoyl chloride. Butyl lithium (32.7 ml, 52.4 mmol) was added to a solution of diisopropylamine (4.9 g, 48.5 mmol) in dry THF (20 mL) under nitrogen at 0° C. and stirred for 20 minutes. The solution was cooled to −78° C. and 4.3 g (48.5 mmol) of ethyl acetate was added. The solution was stirred at that temperature for 45 minutes. (2R,3R)-2,3-Dimethyl-hexanoyl chloride in dry THF (20 mL) was slowly added to the ethyl acetate enolate at −78° C. and the resulting reaction mixture was allowed to warm to room temperature. The reaction mixture was stirred at room temperature for 2.5 hours and was cooled to 0° C. The reaction was quenched with a saturated solution of ammonium chloride and extracted into ethyl acetate. The solution was washed with brine, dried over MgSO4 and concentrated. The resulting residue was filtered through a silica plug, eluting with 60/40 solution of hexane/ethyl acetate to afford 2.7 g (89.2% yield) of the titled compound as an oil.

reactant | Butyl lithium | 52.4 mmol, 32.7 ml | C(CCC)[Li]
reactant | diisopropylamine | 48.5 mmol, 4.9 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl acetate | 48.5 mmol, 4.3 g | C(C)(=O)OCC | C4H8O2
reactant | (2R,3R)-2,3-Dimethyl-hexanoyl chloride | C[C@@H](C(=O)Cl)[C@@H](CCC)C | C8H15ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4R,5R)-4,5-Dimethyl-3-oxo-octanoic acid | 2.7 g, 89.2% yield | C[C@@H](C(CC(=O)O)=O)[C@@H](CCC)C | C10H18O3
